US05470980
Bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Azodicarboxylate
The procedure of Example 4 is repeated using 4.6 g of bis(1-octyloxy-2,2,6,6-tetra-methylpiperidin-4-yl) hydrazine-1,2-dicarboxylate and 2.3 g of iodobenzene diacetate to afford 3.3 gg of the title compound as a pale yellow oil. NMR, IR and mass spectra analyses are consistent with the desired structure.

reactant | bis(1-octyloxy-2,2,6,6-tetra-methylpiperidin-4-yl) hydrazine-1,2-dicarboxylate | 4.6 g | N(NC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C36H70N4O6
reactant | iodobenzene diacetate | 2.3 g | C(C)(=O)O.C(C)(=O)O.IC1=CC=CC=C1
product | Bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Azodicarboxylate | N(=NC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C36H68N4O6
